2114-03-30 07:15:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
 CARDIAC CATH - At [**2114-3-29**] 04:15 PM
   -hypertensive to 170s with HR 50s, asymptomatic. Gave captopril 12.5
   mg, then lisinopril 20 mg, with improvement of SBP to 150s
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-30**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 61 (49 - 61) bpm
   BP: 148/42(69) {128/42(57) - 183/104(103)} mmHg
   RR: 15 (13 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    994 mL
                  PO:
                                                                    300 mL
                  TF:
   IVF:
                                                                    694 mL
   Blood products:
   Total out:
                                                                    625 mL
                                                                    295 mL
   Urine:
                                                                    625 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    369 mL
                                                                   -295 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   General: well-appearing in NAD
   Neck: no carotid bruits, no JVP elevation
   CV: RRR, nl S1/S2, no MRG
   Resp: CTAB, no W/R/R
   Abd: soft, NT/ND, NABS
   Ext: no edema, 2+ PT/DP
   Neuro: A&Ox3. CN II-XII intact.
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   ASSESSMENT AND PLAN: 76y/o gentleman with a PMH of diabetes mellitus,
   HTN, h/o stroke with residual expressive aphasia admitted on [**3-26**] with
   urinary retention s/p NSTEMI found to have 3vd on cardiac
   catheterization.
   .
   # NSTEMI - the patient was found to have 3vd with LM ostial lesion, LCx
   and RCA total occlusions. Given 3vd PCI deferred for CT surgery
   evaluation. Pt was CP free overnight but developed CP after rounds this
   a.m., which resolved with nitro. TTE demonstrates moderate regional
   left ventricular systolic dysfunction with inferior/inferolateral
   akinesis/hypokinesis with EF 40%
   - Considering emergent CABG without full clopidogrel washout due to
   recurrent CP. Timing of surgery will depend on INR.
   - CT chest to evaluate aorta; carotid ultrasound
   - Continue [**Last Name (LF) 119**], [**First Name3 (LF) 124**] hold clopidogrel
   - Continue lisinopril (uptitrate to 40 mg daily)
   - Continue metoprolol
   - Nitro gtt for CP
   - holding coumadin
   - Continue statin
   .
   #  HTN - continue beta blocker and lisinopril as above; uptitrate
   lisinopril to 40 mg daily; start nitro drip for CP/BP control
   .
   # Hypercholesterolemia - continue atorvastatin
   .
   # DM2 - continue insulin sliding scale
   .
   # Left MCA stroke with expressive aphasia [**7-/2104**]  - on chronic warfarin
   anticoagulation. Holding coumadin pre-operatively.
   - Carotid US per CT [**Doctor First Name 91**] recs
   .
   # Urinary retention: Likely related to prostatic disease. Consider
   further w/u as outpatient.
   - Foley in place
   - Continue tamsulosin
   ICU Care
   Nutrition:
   Comments: Cardiac/diabetic
   Glycemic Control: Regular insulin sliding scale
   Lines:
   20 Gauge - [**2114-3-29**] 04:15 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now ; to be evaluated by CT surgery for
   consideration of emergent CABG

2114-03-31 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   CP in am, mild EKG changes, nitro drip started, CP resolved.
   -hypertensive to 170s with HR 50s, asymptomatic. Gave captopril 12.5
   mg, then lisinopril 20 mg, with improvement of SBP to 140s-150s
   Seen by CT-[**Doctor First Name 91**] (Dr [**First Name (STitle) **] continue nitro drip, plan for surgery on
   Monday). NPO on Sunday pm
   -CT chest preop for CABG, calcifications throughout Aorta.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 0.4 mcg/Kg/min
   Other ICU medications:
   Omeprazole (Prilosec) - [**2114-3-30**] 08:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-3-31**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 58 (48 - 63) bpm
   BP: 152/55(80) {109/34(53) - 162/94(110)} mmHg
   RR: 8 (8 - 21) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                    704 mL
                                                                     41 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                    104 mL
                                                                     41 mL
   Blood products:
   Total out:
                                                                    795 mL
                                                                    250 mL
   Urine:
                                                                    795 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -91 mL
                                                                   -209 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   AO x3,chronic non productive cough
   Distant heart sounds
   Mild bibasilar crackles
   Abd:+bs, soft, nt, nd
   Ext: WWP, weak pulses.
   Labs / Radiology
   130 K/uL
   10.4 g/dL
   138 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.8 mEq/L
   13 mg/dL
   106 mEq/L
   141 mEq/L
   30.3 %
   6.1 K/uL
        [image002.jpg]
                             [**2114-3-30**]  06:36 AM
                             [**2114-3-31**]  03:06 AM
   WBC
   6.7
   6.1
   Hct
   33.7
   30.3
   Plt
   130
   130
   Cr
   0.9
   0.8
   Glucose
   149
   138
   Other labs: PT / PTT / INR:19.6/25.9/1.8, Ca++:8.9 mg/dL, Mg++:1.8
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), OTHER
   ASSESSMENT AND PLAN: 76y/o gentleman with a PMH of diabetes mellitus,
   HTN, h/o stroke with residual expressive aphasia admitted on [**3-26**] with
   urinary retention s/p NSTEMI found to have 3vd on cardiac
   catheterization.
   .
   # NSTEMI - the patient was found to have 3vd with LM ostial lesion, LCx
   and RCA total occlusions. Given 3vd PCI deferred for CT surgery
   evaluation. Pt was CP free overnight but developed CP after rounds this
   a.m., which resolved with nitro. TTE demonstrates moderate regional
   left ventricular systolic dysfunction with inferior/inferolateral
   akinesis/hypokinesis with EF 40%
   - Considering emergent CABG without full clopidogrel washout due to
   recurrent CP. Timing of surgery will depend on INR.
   - CT chest to evaluate aorta showed calcifications throughout; carotid
   ultrasound done read pending,
   - Continue [**Last Name (LF) 119**], [**First Name3 (LF) 124**] hold clopidogrel
   - Continue lisinopril (uptitrate to 40 mg daily)
   - Continue metoprolol
   - Nitro gtt for CP
   - holding coumadin
   - Continue statin
   .
   Skin:  erythematous base at coccyx, non draining but with open pore. ?
   Pilonidal cyst, folliculitis, inconsistent with pressure ulcer. Local
   bacitracin, wound care.
   #  HTN - continue beta blocker and lisinopril as above; uptitrate
   lisinopril to 40 mg daily; continue nitro drip for CP/BP control
   .
   # Hypercholesterolemia - continue atorvastatin
   .
   # DM2 - continue insulin sliding scale
   .
   # Left MCA stroke with expressive aphasia [**7-/2104**]  - on chronic warfarin
   anticoagulation. Holding coumadin pre-operatively.
   - Carotid US per CT [**Doctor First Name 91**] recs
   .
   # Urinary retention: Likely related to prostatic disease. Consider
   further w/u as outpatient.
   - Foley in place
   - Continue tamsulosin
   ICU Care
   Nutrition:
   Comments: Cardiac/diabetic
   Glycemic Control: Regular insulin sliding scale
   Lines:
   20 Gauge - [**2114-3-29**] 04:15 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now ; to be evaluated by CT surgery for
   consideration of emergent CABG
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   Awaiting surgery
   tight control of rate pressure product
   If recurrent chest pain
   need to consider earlier surgery
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Name (NI) **],MD
   on:[**2114-3-31**] 09:51 ------

2114-04-01 06:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CHEST PAIN - At [**2114-3-31**] 09:45 AM
   - had an episode of chest pain that responded to a nitro gtt; has been
   chest pain free since then
   - blood pressures fine
   - further clarified home insulin regimen, started on NPH 6u [**Hospital1 **]
   - started heparin gtt now that INR<2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2114-3-31**] 09:50 AM
   Heparin Sodium - [**2114-4-1**] 03:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-4-1**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 60 (52 - 65) bpm
   BP: 142/47(72) {108/34(53) - 175/67(95)} mmHg
   RR: 21 (13 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    591 mL
                                                                     76 mL
   PO:
                                                                    150 mL
             TF:
   IVF:
                                                                    441 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                    945 mL
                                                                    360 mL
   Urine:
                                                                    945 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -354 mL
                                                                   -284 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   135 K/uL
   10.0 g/dL
   168 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.0 mEq/L
   18 mg/dL
   103 mEq/L
   138 mEq/L
   29.6 %
   6.8 K/uL
        [image002.jpg]
                             [**2114-3-30**]  06:36 AM
                             [**2114-3-31**]  03:06 AM
                             [**2114-4-1**]  02:00 AM
   WBC
   6.7
   6.1
   6.8
   Hct
   33.7
   30.3
   29.6
   Plt
   130
   130
   135
   Cr
   0.9
   0.8
   0.8
   Glucose
   149
   138
   168
   Other labs: PT / PTT / INR:17.0/41.6/1.5, Ca++:8.6 mg/dL, Mg++:1.9
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 76y/o gentleman with a PMH of diabetes mellitus,
   HTN, h/o stroke with residual expressive aphasia admitted on [**3-26**] with
   urinary retention s/p NSTEMI found to have 3vd on cardiac
   catheterization.
   .
   # NSTEMI - the patient was found to have 3vd with LM ostial lesion, LCx
   and RCA total occlusions. Given 3vd PCI deferred for CT surgery
   evaluation. Pt was CP free overnight but developed CP after rounds this
   a.m., which resolved with nitro. TTE demonstrates moderate regional
   left ventricular systolic dysfunction with inferior/inferolateral
   akinesis/hypokinesis with EF 40%
   - Considering emergent CABG without full clopidogrel washout due to
   recurrent CP. Timing of surgery will depend on INR.
   - CT chest to evaluate aorta showed calcifications throughout; carotid
   ultrasound done read pending,
   - Continue [**Last Name (LF) 119**], [**First Name3 (LF) 124**] hold clopidogrel
   - Continue lisinopril (uptitrate to 40 mg daily)
   - Continue metoprolol
   - Nitro gtt for CP
   - holding coumadin
   - Continue statin
   .
   Skin:  erythematous base at coccyx, non draining but with open pore. ?
   Pilonidal cyst, folliculitis, inconsistent with pressure ulcer. Local
   bacitracin, wound care.
   #  HTN - continue beta blocker and lisinopril as above; uptitrate
   lisinopril to 40 mg daily; continue nitro drip for CP/BP control
   .
   # Hypercholesterolemia - continue atorvastatin
   .
   # DM2 - continue insulin sliding scale
   .
   # Left MCA stroke with expressive aphasia [**7-/2104**]  - on chronic warfarin
   anticoagulation. Holding coumadin pre-operatively.
   - Carotid US per CT [**Doctor First Name 91**] recs
   .
   # Urinary retention: Likely related to prostatic disease. Consider
   further w/u as outpatient.
   - Foley in place
   - Continue tamsulosin
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2114-3-30**] 02:13 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU